Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
E-Mycin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Unwtinessed syncope with headstrike and LOC
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o IBS, HLD, GERD initially admitted to OSH after syncope 
and fall found to have cervical spine and orbital trauma 
transferred for NSGY eval given LUE weakness, s/p Neurology eval 
(likely nerve palsy, recommended conservative management with 
___, ENT eval (recommended sinus precautions and optho 
consult, and outpatient follow-up), Optho eval (sinus 
precautions and outpatient follow-up in ___ weeks) now 
transferred to medicine for syncope work-up.

Per documentation, on ___ AM she got up to go to the bathroom 
and got lightheaded and fell on to a chair. She struck right 
side of the face. Presented to ___ where MRI 
C-spine showed ligamentous injury at C2-3, and Right orbital 
floor fracture, minimally displaced w/ no e/o entrapment. CT 
head otherwise neg. Transferred to ___ for neurosurgical eval 
given finding of LUE weakness. Here seen by ACS for trauma eval, 
plastics evaluated for orbital fx, on sinus precautions and rec 
outpatient f/u. Neuro consulted for left UE weakness, think 
likely ___ L axillary nerve palsy. Per neurosurgery, for C-spine 
ligamentous injury no surgical indication, rec hard Cervical 
Collar, removed earlier today. Requesting transfer to medicine 
for syncope w/u. 

On history on the floor, no family history of SCD, arrhythmia, 
neurological d/o including seizure. Reports prior history and 
diagnosis of vasovagal syncope ___ year ago at ___. 
Denies recent N/V/F/C. Reports normal PO intake prior to fall.
 
Past Medical History:
-IBS
-HLD
-GERD
-Tonsillectomy
-Left breast benign cyst removal
 
Social History:
___
Family History:
No family history of SCD, arrhythmia, neurological d/o including 
seizure
 
Physical Exam:
PE on admission:
VS: 98.2  118/70  66  16  96% RA
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor, 
extensive ecchymoses and edema below R orbit and lateral to R 
orbit, EOM intact without evidence of ___ entrapment
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, strength ___ at shoulder and 
elbow on LUE, otherwise grossly intact in other extremities

PE on discharge:
VS: 98.3 PO, 124 / 75, 63, 19, 97 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor, 
extensive ecchymoses and edema below R orbit and lateral to R 
orbit, EOM intact without evidence of ___ entrapment
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, strength ___ at L shoulder and 
L elbow, otherwise grossly intact in other extremities
 
Pertinent Results:
Labs on admission:
___ 07:05PM BLOOD WBC-10.8* RBC-4.17 Hgb-12.4 Hct-37.9 
MCV-91 MCH-29.7 MCHC-32.7 RDW-13.6 RDWSD-45.6 Plt ___
___ 07:05PM BLOOD Neuts-49.6 ___ Monos-9.7 Eos-4.4 
Baso-0.7 Im ___ AbsNeut-5.35 AbsLymp-3.81* AbsMono-1.04* 
AbsEos-0.47 AbsBaso-0.07
___ 07:05PM BLOOD ___ PTT-30.3 ___
___ 07:05PM BLOOD Glucose-90 UreaN-14 Creat-0.7 Na-140 
K-4.1 Cl-103 HCO3-25 AnGap-16

Imaging/other studies:
___-CT (___):
1. No acute intracranial hemorrhage or mass effect. 
2. Re-demonstration of comminuted right orbital floor fracture.  
No herniation of extra ocular muscles through the fracture 
defect.  Increased right intraorbital and periorbital 
subcutaneous emphysema. 
3. Increased blood within the right maxillary sinus. 

Labs on discharge:
___ 07:00AM BLOOD WBC-8.5 RBC-4.03 Hgb-12.1 Hct-36.6 MCV-91 
MCH-30.0 MCHC-33.1 RDW-13.7 RDWSD-46.2 Plt ___
___ 07:05PM BLOOD Neuts-49.6 ___ Monos-9.7 Eos-4.4 
Baso-0.7 Im ___ AbsNeut-5.35 AbsLymp-3.81* AbsMono-1.04* 
AbsEos-0.47 AbsBaso-0.07
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-86 UreaN-10 Creat-0.6 Na-138 
K-4.0 Cl-102 HCO3-23 AnGap-17
___ 07:00AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.___ with IBS, HLD, GERD initially admitted to OSH after syncope 
and fall found to have cervical spine and orbital trauma 
transferred for neurosurgery evaluation given LUE weakness. 
MRI-neck only showed ligamentous injury at C2/C3 and she was 
cleared for removal of c-collar by neurosurgery. LUE weakness 
was evaluated by neurology and it was thought to be secondary to 
axillary nerve palsy. ENT  and ophthalmology both recommended 
sinus precautions and outpatient follow-up.

#Vasovagal syncope
History of vasovagal syncope. Prodromal sx after using bathroom. 
No signs or sx c/f cardiac pathology. No tele events, low 
pre-test probability of cardiac etiology. No personal or family 
hx of neurological disease. Orthostatics negative. Telemetry 
monitoring negative. Given history, diagnosed with vasovagal 
syncope. Discussed precautions, use of compression stockings and 
need for ongoing evaluation and ___, which she will continue as 
an outpatient.

#Fall
#C-spine ligamentous injury
#Orbital fracture
Non-operative management per NSGY. ENT, Optho will follow-up 
outpatient.
-No bracing or movement restrictions per NSGY
-Appreciate ENT, Optho recs
-Appreciate NSGY recs

#L arm weakness
Thought related to axillary nerve palsy.
Characterized by neurology, approached with conservative 
management per their recommendations
-___ consults today
-Appreciate neurology recs

Transitional issues:
-sinus precautions for two weeks.
-needs ___ for axillary nerve palsy
-outpatient follow-up w/ ophthalmology, ENT, plastic surgery
-cervical collar cleared by neurosurgery.
-evaluate need for trazadone and dicyclomine, given that both 
can cause dizziness
-code status during this admission: DNR/DNI (confirmed)
-contact: ___ (HCP/husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. DICYCLOMine ___ mg PO TID 
3. TraZODone 50 mg PO QHS:PRN insomnia 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Ondansetron ODT 4 mg PO Q8H:PRN NAUSEA 
RX *ondansetron 4 mg 1 tablet(s) by mouth every ___ hours Disp 
#*30 Tablet Refills:*0 
2.  DICYCLOMine ___ mg PO TID  
3.  Multivitamins 1 TAB PO DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.  Pravastatin 20 mg PO QPM  
6.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope
Right Orbital floor fracture
Ligamentous injury to C2-C3

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were brought into the hospital because you fainted and hit 
your head. A CT-scan of your head showed that you had a fracture 
on the bottom part of your orbit (underneath your eye). An 
MRI-scan of your neck showed that you had injury to the 
ligaments of your upper cervical spine. Neurosurgery examined 
you and determined that you did not need a cervical collar. The 
neurology team thought that your left arm weakness was likely 
due to compression of a nerve in your shoulder.

You will remain on sinus precautions for the next two weeks (no 
blowing or pinching your nose, sneeze with your mouth open, no 
drinking through a straw or smoking, no forceful blowing as in 
playing wind instruments or filling up balloons, no pushing or 
lifting >10lb, no bending over). You will need physical therapy 
to regain strength in your left arm. In order to prevent another 
episode of fainting please remain well hydrated and wear 
compression stockings.

Please keep all of your follow-up appointment and take all of 
your medications as instructed.

It was a pleasure to participate in your care while you were at 
the ___.

-Your medicine team

 
Followup Instructions:
___